US04309443
N-{2-(4-{(E)-2-Carbomethoxyethenyl}phenyl)-1-methylethyl}-2-hydroxy-2-(3-fluorophenyl) ethanamine
This was prepared in an identical manner to the compound described in Example 1 using 2-hydroxy-2-(3-fluorophenyl) ethanamine (1.55 g) and 4{(E)-2-carbomethoxyethenyl}phenylpropan-2-one (2.18 g). Elution with 1% methanolchloroform on Kieselgel 60 gave the title compound (1.4 g) m.p. 75°-110° C. (benzene-heptane) as an ~45:55 mixture of diastereoisomers. τ(CDCl3) 8.9 (3H, d, J=6 Hz), 6.9-7.8 (7H, m, 2H disappears with D2O), 6.25 (3H, s), 5.45 (1H, m), 3.6 (1H, d, J=16 Hz), 2.55-3.2 (8H, m), 2.35 (1H, d, J=16 Hz).

reactant | 2-hydroxy-2-(3-fluorophenyl) ethanamine | 1.55 g | OC(CN)C1=CC(=CC=C1)F | C8H10FNO
reactant | 4{(E)-2-carbomethoxyethenyl}phenylpropan-2-one | 2.18 g | C(=O)(OC)/C=C/C1=CC=C(C=C1)CC(C)=O | C13H14O3
product | N-{2-(4-{(E)-2-Carbomethoxyethenyl}phenyl)-1-methylethyl}-2-hydroxy-2-(3-fluorophenyl) ethanamine | 1.4 g | C(=O)(OC)/C=C/C1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)F)O | C21H24FNO3
